US06194406B1
Combine 1-(t-butoxycarbonyl)-4-(1-(2-(1H-tetrazol-1-yl)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (2.06 g) and methanol (15 mL). Add a solution of hydrochloric acid in dioxane (4 mL, 4 M, 16 mmol) and stir. After 4 hours, add a 1 M aqueous solution of sodium hydroxide until the pH is about 14. Concentrate in vacuo to remove most of the methanol and then extract 5 times with dichloromethane. Dry the combined organic layers over Na2SO4, filter, and concentrate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 10% methanol/dichloromethane/0.5% concentrated aqueous ammonia to give 4-(1-(2-(1H-tetrazol-1-yl)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane: Rf=0.30 (silica gel, 10% methanol/dichloromethane/0.5% concentrated aqueous ammonia).

reactant | 1-(t-butoxycarbonyl)-4-(1-(2-(1H-tetrazol-1-yl)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 2.06 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCN1N=NN=C1)C=CC=C2 | C20H28N8O2
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 16 mmol, 4 M, 4 mL | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol dichloromethane | CO.ClCCl
solvent | methanol | 15 mL | CO | CH4O
product | 4-(1-(2-(1H-tetrazol-1-yl)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | N1(N=NN=C1)CCN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | C15H20N8
